US07592373B2
3-(4′-chlorobiphenyl-4-yl)propynoic acid-{4-[(cyclohexylmethylamino)methyl]phenyl}amide
Prepared analogously to Example 3.8. from (4′-chlorobiphenyl-4-yl)propynoic acid and 4-[(cyclohexylmethylamino)methyl]phenylamine hydrochloride. Yield: 60 mg (13% of theory); melting point: 205° C.-210° C.; C29H29ClN2O (M=457.01); calc.: molecular ion peak (M+H)+: 457/459 (Cl); found: molecular ion peak (M+H)+: 457/459 (Cl); Rf value: 0.60 (silica gel, dichloromethane/methanol (90:10)).

reactant | (4′-chlorobiphenyl-4-yl)propynoic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC(=O)O | C15H9ClO2
reactant | 4-[(cyclohexylmethylamino)methyl]phenylamine hydrochloride | Cl.C1(CCCCC1)CNCC1=CC=C(C=C1)N
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(4′-chlorobiphenyl-4-yl)propynoic acid-{4-[(cyclohexylmethylamino)methyl]phenyl}amide | C1(CCCCC1)CNCC1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C29H29ClN2O
